US05760068
Step 1. Preparation of 4-keto-4,5,6,7-tetrahydrothianaphthene
4-(2-Thienyl)butyric acid (28.42 g, 167 mmol) was placed in a round bottom flask with acetic anhydride (30 mL) and phosphoric acid (0.6 mL), and heated to reflux for 3.2 hours. The reaction mixture was poured into 100 mL of water, extracted with ethyl acetate, washed with brine, dried over MgSO4, and concentrated in vacuo to give a brown oil (22.60 g) which was vacuum distilled (1 mm Hg, 107°-115° C.) to give a white solid (13.08 g, 51%): mp 34°-40° C.); 1H NMR (CDCl3) 300 MHz 7.29 (d, J=5.2 Hz, 1H), 6.99 (d, J=5.2 Hz, 1H, 2.95 (t, J=6.0 Hz, 2H), 2.47(m, 2H), 2.13(m, 2H). M+H=153.

reactant | 4-(2-Thienyl)butyric acid | 167 mmol, 28.42 g | S1C(=CC=C1)CCCC(=O)O | C8H10O2S
reactant | acetic anhydride | 30 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | phosphoric acid | 0.6 mL | P(O)(O)(O)=O | H3O4P
solvent | water | 100 mL | O | H2O
product | 4-keto-4,5,6,7-tetrahydrothianaphthene | 22.60 g | C1CC2=C(C=CS2)C(=O)C1 | C8H8OS
